US04011335
By the procedure described in Example 2, 33.65 g. of 3-ethyl-7,9-dimethyl-1,6-decadien-3-ol and 6.6 ml. of phosphorus tribromide are reacted to produce 1-bromo-3-ethyl-7,9-dimethyl-2,6-decadiene.

reactant | 3-ethyl-7,9-dimethyl-1,6-decadien-3-ol | C(C)C(C=C)(CCC=C(CC(C)C)C)O | C14H26O
reactant | phosphorus tribromide | P(Br)(Br)Br | Br3P
product | 1-bromo-3-ethyl-7,9-dimethyl-2,6-decadiene | BrCC=C(CCC=C(CC(C)C)C)CC | C14H25Br
